US08809336B2
A 1M solution of lithium aluminium hydride in tetrahydrofuran (1.66 mL, 1.66 mmol) was added dropwise to a cooled (0° C.) solution of 4-tert-butoxycarbonylamino-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (400 mg, 1.1 mmol) in dry tetrahydrofuran (5 mL). The solution was stirred for 3 h at rt under nitrogen. Water (172 μL) and 10% sodium hydroxide aq (232 μL) were added and the mixture was stirred for 2 h. Further water (172 □L) was added and the mixture was filtered through a pad of celite and washed with diethyl ether. The crude product was purified by flash column chromatography on silica, eluting with 10% methanol in dichloromethane, to give 4-tert-butoxycarbonylamino-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (178 mg, 0.54 mmol, 49%). LC-MS (LCT2) m/z 353 [M+Na+], Rt 6.67 min.

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-tert-butoxycarbonylamino-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 1.1 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)NC(=O)OC(C)(C)C | C16H28N2O6
reactant | Water | 172 μL | O | H2O
reactant | sodium hydroxide | 232 μL | [OH-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.66 mmol, 1.66 mL | O1CCCC1 | C4H8O
product | 4-tert-butoxycarbonylamino-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.54 mmol, 178 mg, 49% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)NC(=O)OC(C)(C)C | C16H30N2O5
